US08003649B2
A mixture of 1-(3-chloro-5-trifluoromethyl-2-pyridyl)-1,4-diazepane and 6-chloro-3-[chloro(difluoro)methyl]-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by an analogous method to Example 339 to give 3-[chloro(difluoro)methyl]-6-[4-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-1,4-diazepan-1-yl][1,2,4]triazolo[4,3-b]pyridazine in 62% yield.

reactant | 1-(3-chloro-5-trifluoromethyl-2-pyridyl)-1,4-diazepane | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCNCCC1 | C11H13ClF3N3
reactant | 6-chloro-3-[chloro(difluoro)methyl]-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)Cl | C6H2Cl2F2N4
product | 3-[chloro(difluoro)methyl]-6-[4-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-1,4-diazepan-1-yl][1,2,4]triazolo[4,3-b]pyridazine | 62% yield | ClC(C1=NN=C2N1N=C(C=C2)N2CCN(CCC2)C2=NC=C(C=C2Cl)C(F)(F)F)(F)F | C17H14Cl2F5N7
